US07566735B2
N-butyl-N-methyl-4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzamide
The title compound was prepared from 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid and N-methylbutylamine using a similar procedure to that described for Example 2.

reactant | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)O)C=C1)(F)F | C15H13F3N2O2
reactant | N-methylbutylamine | CNCCCC | C5H13N
product | N-butyl-N-methyl-4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzamide | C(CCC)N(C(C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)C | C20H24F3N3O
